US07812028B2
b) (5-Bromo-6-chloro-pyridin-3-yl)-((R)-4-isobutyl-2,2-dimethyl-oxazolidin-3-yl)-methanone
5-Bromo-6-chloro-N—((R)-1-hydroxymethyl-3-methyl-butyl)-nicotinamide (2.6 g, 8.0 mmol) was dissolved in 2,2-dimethoxypropane (25 mL, 200 mmol). To the solution was added camphorsulfonic acid (19 mg, 0.08 mmol) and the reaction mixture was stirred for 24 h at 60° C. After cooling drops of triethylamine were added and the solvent was evaporated in vacuo. The residue was purified by column chromatography on silica (cyclohexane/ethyl acetate gradient) to yield 2.0 g of the title compound as light yellow oil.

reactant | 5-Bromo-6-chloro-N—((R)-1-hydroxymethyl-3-methyl-butyl)-nicotinamide | 8.0 mmol, 2.6 g | BrC=1C(=NC=C(C(=O)N[C@H](CC(C)C)CO)C1)Cl | C12H16BrClN2O2
reactant | 2,2-dimethoxypropane | 200 mmol, 25 mL | COC(C)(C)OC | C5H12O2
catalyst | camphorsulfonic acid | 0.08 mmol, 19 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (5-Bromo-6-chloro-pyridin-3-yl)-((R)-4-isobutyl-2,2-dimethyl-oxazolidin-3-yl)-methanone | 2.0 g | BrC=1C=C(C=NC1Cl)C(=O)N1C(OC[C@H]1CC(C)C)(C)C | C15H20BrClN2O2
